US07105516B2
cis-2-(3-Cyano-1H-indol-5-yl)-cyclopentanecarboxylic acid ethyl ester
A solution of 2-(3-cyano-1H-indol-5-yl)-cyclopent-1-enecarboxylic acid ethyl ester (0.97 g, 3.46 mMol) in methanol (50 mL) was treated with 10% palladium(0) on carbon (0.35 g) and hydrogenated at 50 psi in a Parr apparatus for 22 h. The mixture was filtered through Celite® 545 and concentrated in vacuo to give the product as a clear oil which solidified upon standing (0.95 g, 97%). 1H-NMR (500 MHz, CDCl3) δ 8.76 (1H, br s), 7.65 (1H, d, J=2.0 Hz), 7.60 (1H, s), 7.25 (1H, d, J=8.5 Hz), 7.18 (1H, m), 3.71 (2H, m), 3.57 (1H, m), 3.21 (1H, m), 2.16 (m, 4H), 2.02 (1H, m), 1.78 (1H, m), 0.85 (3H, t, J=7.0 Hz).

reactant | 2-(3-cyano-1H-indol-5-yl)-cyclopent-1-enecarboxylic acid ethyl ester | 3.46 mMol, 0.97 g | C(C)OC(=O)C1=C(CCC1)C=1C=C2C(=CNC2=CC1)C#N | C17H16N2O2
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium(0) | [Pd] | Pd
product | cis-2-(3-Cyano-1H-indol-5-yl)-cyclopentanecarboxylic acid ethyl ester | C(C)OC(=O)[C@H]1[C@H](CCC1)C=1C=C2C(=CNC2=CC1)C#N | C17H18N2O2
